US06100254
In a flame-dried round bottom flask 4-chloroanthranilic acid N-methoxy-N-methylamide (4.58 g, 21.3 mmol) and m-bromoanisidine (4.02 g, 21.5 g) were dissolved in THF (185 mL) and the resulting solution was cooled to -78° C. With vigorous stirring, 2 equiv of nBuLi in hexanes (26.9 mL, 1.6 M, 43.0 mmol) was added dropwise by a syringe pump at 0.6 mL/min. After 20 min, 40 mL of 1 N hydrochloric acid was carefully added, the mixture was extracted with ethyl acetate (300 mL), and the ethyl acetate was washed with water (100 mL) and brine (100 mL), dried over sodium sulfate and concentrated in vacuo. Flash chromatography with hexanes/ethyl acetate (95:5, then 75:25) afforded 3.75 g (67% yield) of 2-amino-3'-methoxybenzophenone as a yellow oil. 1H NMR (50 MHz, CDCL3): δ 3.83 (s, 3), 6.17 (b, 2), 6.55 (dd, 1, J=2.0, 8.5), 6.72 (d, 1, J=2.0), 7.06 (dd, 1, J=2.6, 8.5), 7.13 (m, 2), 7.35 (t, 1, J=7.8), 7.39 (d, 1, J=8.5). 2-Amino-4-chloro-3'-methoxybenzophenone was converted to 2-amino-4-chloro-3'-hydroxybenzophenone (below) prior to full characterization.

reactant | 4-chloroanthranilic acid N-methoxy-N-methylamide | 21.3 mmol, 4.58 g | CON(C(C=1C(N)=CC(=CC1)Cl)=O)C | C9H11ClN2O2
reactant | m-bromoanisidine | 4.02 g | BrC=1C=C(OC)C=CC1N | C7H8BrNO
reactant | nBuLi | 2 equiv | [Li]CCCC
reactant | hydrochloric acid | 1 N, 40 mL | Cl | ClH
solvent | THF | 185 mL | C1CCOC1 | C4H8O
product | 2-amino-3'-methoxybenzophenone | 3.75 g, 67% yield | NC1=C(C(=O)C2=CC(=CC=C2)OC)C=CC=C1 | C14H13NO2
